US07030107B2
In a similar manner to Reference Example 4, 5-[3,5-bis(trifluoromethyl)benzyl]-7-iodo-6-oxo-2,3,4,5-tetrahydro-6H-pyrido[2,3-b][1,5]oxazocine (300 mg) was reacted with 4-chlorophenylboronic acid (160 mg) to obtain 5-[3,5-bis(trifluoromethyl)benzyl]-7-(4-chlorophenyl)-6-oxo-2,3,4,5-tetrahydro-6H-pyrido[2,3-b][1,5]oxazocine (292 mg, 100%).

reactant | 5-[3,5-bis(trifluoromethyl)benzyl]-7-iodo-6-oxo-2,3,4,5-tetrahydro-6H-pyrido[2,3-b][1,5]oxazocine | 300 mg | FC(C=1C=C(CN2C(C3=C(OCCC2)N=CC=C3I)=O)C=C(C1)C(F)(F)F)(F)F | C18H13F6IN2O2
reactant | 4-chlorophenylboronic acid | 160 mg | ClC1=CC=C(C=C1)B(O)O | C6H6BClO2
product | 5-[3,5-bis(trifluoromethyl)benzyl]-7-(4-chlorophenyl)-6-oxo-2,3,4,5-tetrahydro-6H-pyrido[2,3-b][1,5]oxazocine | 292 mg, 100% | FC(C=1C=C(CN2C(C3=C(OCCC2)N=CC=C3C3=CC=C(C=C3)Cl)=O)C=C(C1)C(F)(F)F)(F)F | C24H17ClF6N2O2
